US08754079B2
XXXII.2 1-(4,4-difluoro-cyclohexyl)-ethanone
2 ml methyl lithium (1 M in diethylether) were added into a solution of 0.593 g 4,4-difluoro-cyclohexanecarboxylic acid methoxy-methyl-amide in anhydrous 5 ml THF at 0° C. The reaction was allowed to warm to rt overnight. The reaction was quenched with sat. ammonium chloride solution (˜50 ml) and diluted with sat. sodium hydrogencarbonate solution (25 ml). The aqueous layer was extracted with diethylether (3×50 ml) and the combined organic phases were dried over sodium sulfate, filtered and concentrated in vacuo. Purification was achieved by silica gel column chromatography (solvent: 5:1→1:1 petroleum/ether (40-60).

reactant | methyl lithium | 1 M, 2 ml | C[Li]
reactant | 4,4-difluoro-cyclohexanecarboxylic acid methoxy-methyl-amide | 0.593 g | CON(C(=O)C1CCC(CC1)(F)F)C | C9H15F2NO2
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 1-(4,4-difluoro-cyclohexyl)-ethanone | FC1(CCC(CC1)C(C)=O)F | C8H12F2O
